US03935314
4-Trifluoromethyl -o- phenylenediamine (25.46g) and cyanoguanidine (12.40g) were reacted together in a manner analogous to that of Example 2 to yield 5-Trifluoromethyl-2-guanidinobenzimidazole is a red gummy solid which when dissolved in 5N hydrochloroic acid and evaporated to dryness yielded the dihydrochloride (25.01g) as a brown solid, m.p. 206°-209°C.

reactant | 4-Trifluoromethyl -o- phenylenediamine | 25.46g | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
reactant | cyanoguanidine | 12.40g | C(#N)NC(=N)N | C2H4N4
product | 5-Trifluoromethyl-2-guanidinobenzimidazole | FC(C1=CC2=C(N=C(N2)NC(=N)N)C=C1)(F)F | C9H8F3N5
